US06972295B2
Step C 4-(4-Methylphenyl)-3-phenylbutan-2-amine
To a solution of the 4-(4-methylphenyl)-3-phenylbutan-2-one (308 mg, 1.29 mmol) in 7M ammonia in MeOH (5 mL) and acetic acid (3 mL) was added sodium cyanoborohydride (130 mg, 2.06 mmol) and the reaction stirred at room temperature overnight. The reaction was quenched by pouring into 2M sodium carbonate solution and extracted into EtOAc. The aqueous layer was salted and re-extracted. The combined organic extracts were dried over MgSO4 and concentrated to give the title compound as a mixture of 4 isomers which was used without further purification. LC-MS: m/e 240 (M+H)+ (2.22 min).

reactant | 4-(4-methylphenyl)-3-phenylbutan-2-one | 1.29 mmol, 308 mg | CC1=CC=C(C=C1)CC(C(C)=O)C1=CC=CC=C1 | C17H18O
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.06 mmol, 130 mg | C(#N)[BH3-].[Na+]
solvent | ammonia | 7M | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(4-Methylphenyl)-3-phenylbutan-2-amine | CC1=CC=C(C=C1)CC(C(C)N)C1=CC=CC=C1 | C17H21N
